US04107307
3-(5-Methyl-4-imidazolylmethylene) carbazic acid ethyl ester
A mixture of 7.0 gm. of 5-methyl-4-imidazolecarboxaldehyde and 7.3 gm. of ethyl carbazate are reacted as described in Example 32 giving the desired product, m.p. 195°-203° C.

reactant | 5-methyl-4-imidazolecarboxaldehyde | CC1=C(N=CN1)C=O | C5H6N2O
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
product | 3-(5-Methyl-4-imidazolylmethylene) carbazic acid ethyl ester | C(C)OC(NN=CC=1N=CNC1C)=O | C8H12N4O2
